US06951865B2
3-(1H-Benzo[d]imidazol-2-yl)-8-(1-ethylpropyl)-2,5-dimethyl-7,8-dihydro-6H-pyrazolo[1,5-a]pyrrolo[3,2-e]pyrimidine
DDQ (79 mg, 0.35 mmol) was added to a solution of 8-(1-ethylpropyl)-2,5-dimethyl-7,8-dihydro-6H-pyrazolo[1,5-a]pyrrolo[3,2-e]pyrimidin-3-carbaldehyde (100 mg, 0.35 mmol) and 1,2-phenylenediamine (40 mg, 0.37 mmol) in acetonitrile (1 mL) at room temperature and the mixture was stirred for one day. Further, a 0.5N aqueous solution of sodium hydroxide was added thereto, followed by stirring for five hours. The mixture was extracted with ethyl acetate, dried over anhydrous magnesium sulfate and evaporated. The residue was purified by dry pack silica gel column chromatography (50% ethyl acetate/hexane), to give the title compound (23 mg) as pale yellow crystals.

reactant | DDQ | 0.35 mmol, 79 mg | C(#N)C1=C(C(=O)C(=C(C1=O)Cl)Cl)C#N | C8Cl2N2O2
reactant | 8-(1-ethylpropyl)-2,5-dimethyl-7,8-dihydro-6H-pyrazolo[1,5-a]pyrrolo[3,2-e]pyrimidin-3-carbaldehyde | 0.35 mmol, 100 mg | C(C)C(CC)N1CCC=2C(=NC=3N(C21)N=C(C3C=O)C)C | C16H22N4O
reactant | 1,2-phenylenediamine | 0.37 mmol, 40 mg | C1(=C(C=CC=C1)N)N | C6H8N2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | acetonitrile | 1 mL | C(C)#N | C2H3N
product | 3-(1H-Benzo[d]imidazol-2-yl)-8-(1-ethylpropyl)-2,5-dimethyl-7,8-dihydro-6H-pyrazolo[1,5-a]pyrrolo[3,2-e]pyrimidine | 23 mg | N1C(=NC2=C1C=CC=C2)C=2C(=NN1C2N=C(C2=C1N(CC2)C(CC)CC)C)C | C22H26N6
